US07285563B2
N-[7-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 7-(trifluoromethyl)isoquinolin-5-amine (Description 99) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to Description 61. m/z (ES+) 414 (M+H)+.

reactant | 7-(trifluoromethyl)isoquinolin-5-amine | FC(C=1C=C(C=2C=CN=CC2C1)N)(F)F | C10H7F3N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-[7-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea | FC(C1=CC(=C2C=CN=CC2=C1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F)(F)F | C19H13F6N3O
